US06528677B1
0.7 g of 4-(diethoxy-phosphorylmethyl)-benzoic acid ethyl ester were dissolved in 10 ml of THF and treated at −20° C. with 2.2 ml of a 1 molar solution of lithium bis(trimethylsilyl)amide in hexane. After 15 minutes a solution of 0.46 g of 4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-indene-2-carbaldehyde in 5 ml of THF was added. The reaction mixture was stirred for 3 hours at room temperature, poured on ice cold, saturated aqueous ammonium chloride solution, extracted with ethyl acetate, the organic phase was dried (Na2SO4) and the solvent evaporated. The yellow, oily residue was purified with flash chromatography (silica gel, hexane/10% ethyl acetate) and gave 0.73 g of (E)-4-[2-(4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-indene-2-yl)-vinyl]-benzoic acid ethyl ester as colorless oil.

reactant | 4-(diethoxy-phosphorylmethyl)-benzoic acid ethyl ester | 0.7 g | C(C)OC(C1=CC=C(C=C1)CP(=O)(OCC)OCC)=O | C14H21O5P
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-indene-2-carbaldehyde | 0.46 g | CC1(C=2CC(CC2C(CC1)(C)C)(C=O)CCCCC)C | C19H32O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (E)-4-[2-(4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-indene-2-yl)-vinyl]-benzoic acid ethyl ester | 0.73 g | C(C)OC(C1=CC=C(C=C1)\C=C\C1(CC=2C(CCC(C2C1)(C)C)(C)C)CCCCC)=O | C29H42O2
